US07732099B2
Analogous to Example 1, 1-allyl-3-methylimidazolium bromide (AMIBr) produced by the reaction of allylbromide with 1-methylimidazole was reacted with potassium bis[(trifluoromethyl)sulfonyl]imide (KTFSI) to produce AMI TFSI. Similarly, diallyldimethylammonium bis[(trifluoromethyl)sulfonyl]imide (DAA.TFSI) was synthesized from diallyldimethylammonium bromide (DAABr) and KTFSI.

reactant | potassium bis[(trifluoromethyl)sulfonyl]imide | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[K+]
reactant | diallyldimethylammonium bromide | [Br-].C(C=C)[N+](C)(C)CC=C
product | diallyldimethylammonium bis[(trifluoromethyl)sulfonyl]imide | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.C(C=C)[N+](C)(C)CC=C | InChI=1S/C8H16N.C2F6NO4S2/c1-5-7-9(3,4)8-6-2;3-1(4,5)14(10,11)9-15(12,13)2(6,7)8/h5-6H,1-2,7-8H2,3-4H3;/q+1;-1
